US07314872B2
Spiro[2.5]oct-6-yl-methanol (2.57 g, 18.3 mmol, 1.0 eq.) was dissolved in CH2Cl2 (30 mL) and placed in a ice-water bath at 0° C. Pyridinium dichromate (PCC) (7.9 g, 36.6 mmol, 2.0 eq.) was added and the reaction warmed to room temperature for 4 hours with stirring. The crude reaction was filteredd through a Celite pad and washed with CH2Cl2 and evaporated. The crude material was dissolved in diethyl ether and filtered through Celite, washing with diethyl ether several times. Evaporated solvent to provide Spiro[2.5]octane-6-carbaldehyde as a brown oil (2.98 g, quantitative) that was used directly. 1H NMR (CHCl3, 400 MHz) δ 0.17-0.27 (m, 4H), 0.88-0.91 (m, 2H), 1.09-1.25 (m, 2H), 1.52-1.54 (m, 2H), 1.69-1.75 (m, 3H), 9.44 (d, 1H, J=1.2 Hz).

reactant | Spiro[2.5]oct-6-yl-methanol | 18.3 mmol, 2.57 g, 1.0 eq. | C1CC12CCC(CC2)CO | C9H16O
reactant | Pyridinium dichromate | 36.6 mmol, 7.9 g, 2.0 eq. | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Spiro[2.5]octane-6-carbaldehyde | C1CC12CCC(CC2)C=O | C9H14O
